US08487139B2
Synthesis of Mono-Propargyl Curcumin 5
Curcumin (5 g, 13.57 mmol) and K2CO3 (1.88 g, 13.62 mmol) were dissolved in 60 mL DMF, and 1.62 g (13.61 mmol) of propargyl bromide was added. The mixture was stirred at room temperature under Ar for 49 h. H2O was added to the mixture and solvent was removed under vacuum. The product was purified on column chromatography, eluting with CH2Cl2: hexane 50:50- CH2Cl2. Yield 47%. NMR NMR 1H (CDCl3), δ (ppm): 2.54 (s, 1H); 3.94 (d, 6H); 4.81 (d, 2H); 5.82 (s, 1H); 5.93 (s, 1H); 6.47-6.52 (t, 2H); 6.93-7.15 (m, 6H); 7.59-7.61 (dd, 2H). MS (ESI) calcd. for C24H22O6: 406.43. Found: 407.2 [M+H]+, 445.2 [M++K].

reactant | Curcumin | 13.57 mmol, 5 g | COC1=CC(=CC=C1O)\C=C\C(=O)CC(=O)\C=C\C1=CC=C(O)C(OC)=C1 | C21H20O6
reactant | K2CO3 | 13.62 mmol, 1.88 g | C(=O)([O-])[O-].[K+].[K+]
reactant | propargyl bromide | 13.61 mmol, 1.62 g | C(C#C)Br | C3H3Br
reactant | H2O | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | Mono-Propargyl Curcumin | Yield 47% | C(C#C)C(C(/C=C/C=1C=C(OC)C(=CC1)O)=O)C(=O)\C=C\C1=CC=C(O)C(OC)=C1 | C24H22O6
